US08735384B2
6-Bromo-2-chloro-3-iodoquinoline (1.0 g, 2.7 mmol) and neat 4-methoxybenzylamine (3.6 mL, 27.1 mmol) was combined in a microwave vial and heated in a microwave at 130° C. for 15 min. The reaction mixture was purified by silica flash chromatography (0-30% EtOAc/Hex) to give 6-bromo-3-iodo-N-(4-methoxybenzyl)quinolin-2-amine as a yellow solid.

reactant | 6-Bromo-2-chloro-3-iodoquinoline | 2.7 mmol, 1.0 g | BrC=1C=C2C=C(C(=NC2=CC1)Cl)I | C9H4BrClIN
reactant | 4-methoxybenzylamine | 27.1 mmol, 3.6 mL | COC1=CC=C(CN)C=C1 | C8H11NO
product | 6-bromo-3-iodo-N-(4-methoxybenzyl)quinolin-2-amine | BrC=1C=C2C=C(C(=NC2=CC1)NCC1=CC=C(C=C1)OC)I | C17H14BrIN2O
